US06953790B2
Step A. 4-Amino-5-[(1-t-butoxycarbonylpiperidin-4-yl)amino)pyrimidine
A mixture of 4,5-diaminopyrimidine (1.0 g, 9.1 mmol), N-(t-butoxycarbonyl)-4-piperidone (3.0 g, 15 mmol) and sodium triacetoxyborohydride (1.2 g, 5.6 mmol) in dichloroethane (60 mL) was stirred at room temperature for 3 d. The reaction was partitioned between chloroform (200 mL) and 3N sodium hydroxide (30 mL). After drying over magnesium sulfate, the organic phase was concentrated to give the title compound as a tan gum. MS 294 (M+1).

reactant | 4,5-diaminopyrimidine | 9.1 mmol, 1.0 g | NC1=NC=NC=C1N | C4H6N4
reactant | N-(t-butoxycarbonyl)-4-piperidone | 15 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 5.6 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | 4-Amino-5-[(1-t-butoxycarbonylpiperidin-4-yl)amino)pyrimidine | NC1=NC=NC=C1NC1CCN(CC1)C(=O)OC(C)(C)C | C14H23N5O2
